US07951810B2
Step b: {(3aR,4R,6R,6aS)-2,2-dimethyl-6-[6-(phenylethynyl)-9H-purin-9-yl]tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methanol
A solution of [(3aR,4R,6R,6aS)-6-(6-iodo-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methyl acetate (140.0 mg, 0.31 mmol), Pd(PPh3)2Cl2 (25 mg, 0.036 mmol), DIPEA (140 μL, 0.80 mmol), CuI (20 mg, 0.1 mmol) and phenylacetylene (170 μL, 1.5 mmol) in DMF (5.0 mL) under an atmosphere of nitrogen was stirred at room temperature for 20 minutes. The reaction was concentrated and the residue taken up in DCM (50 mL). This was washed with saturated aq EDTA.Na2 (2×10 mL) then water (10 mL). The organics were concentrated to provide a black gum. This crude product was dissolved in DCM (5 mL) and 7.0 M of ammonia in methanol (5.0 mL) was added. This was stirred at room temperature for 2 hours. The reaction was concentrated and the residue was purified by flash chromatography (0 to 100% EtOAc/DCM) to provide the title compound (75 mg, 63%).

reactant | [(3aR,4R,6R,6aS)-6-(6-iodo-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methyl acetate | 0.31 mmol, 140.0 mg | C(C)(=O)OC[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)I | C16H19IN4O4
reactant | DIPEA | 0.80 mmol, 140 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | phenylacetylene | 1.5 mmol, 170 μL | C1(=CC=CC=C1)C#C | C8H6
reactant | ammonia | 7.0 M | N | H3N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 5.0 mL | CO | CH4O
catalyst | Pd(PPh3)2Cl2 | 0.036 mmol, 25 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.1 mmol, 20 mg | [Cu]I
product | {(3aR,4R,6R,6aS)-2,2-dimethyl-6-[6-(phenylethynyl)-9H-purin-9-yl]tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methanol | 75 mg, 63% | CC1(O[C@H]2[C@@H](O1)[C@@H](C[C@@H]2CO)N2C1=NC=NC(=C1N=C2)C#CC2=CC=CC=C2)C | C22H22N4O3
